US07230020B2
Reaction of 4-chloro-2-methyl-benzothiazol-5-ylamine (50 mg, 0.25 mmol) in THF (1.5 mL) with 3-methoxyphenylacetyl chloride (47 μL, 0.30 mmol) in presence of triethylamine (42 μL, 0.30 mmol) according to method A gave N-(4-chloro-2-methyl-benzothiazol-5-yl)-2-(3-methoxy-phenyl)-acetamide (40 mg, 0.11 mmol, 48% yield) as a white powder after crystallisation in hexane/DCM.

reactant | 4-chloro-2-methyl-benzothiazol-5-ylamine | 0.25 mmol, 50 mg | ClC1=C(C=CC2=C1N=C(S2)C)N | C8H7ClN2S
reactant | 3-methoxyphenylacetyl chloride | 0.30 mmol, 47 μL | COC=1C=C(C=CC1)CC(=O)Cl | C9H9ClO2
reactant | triethylamine | 0.30 mmol, 42 μL | C(C)N(CC)CC | C6H15N
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | N-(4-chloro-2-methyl-benzothiazol-5-yl)-2-(3-methoxy-phenyl)-acetamide | 0.11 mmol, 40 mg, 48% yield | ClC1=C(C=CC2=C1N=C(S2)C)NC(CC2=CC(=CC=C2)OC)=O | C17H15ClN2O2S
